US06310070B1
4-Amino-1-benzyl-5-imidazole carboxamide
9.12 g (30 mol) of 4-benzylideneamino-1-benzyl-5-imidazolecarboxamide obtained was dissolved in 135 ml of tetrahydrofuran. After the addition of 15 ml of concentrated hydrochloric acid, the mixture was stirred at room temperature for two hours. The precipitate obtained was separated by filtration and washed with tetrahydrofuran to obtain 7.26 g of 4-amino-1-benzyl-5-imidazolecarboxamide hydrochloride. 7.26 g of the 4-amino-1-benzyl-5-imidazole carboxamide hydrochloride obtained was dissolved in a mixed solvent of 100 ml of methyl alcohol and 80 ml of distilled water. After the addition of 7.5 ml of 4 N aqueous solution of sodium hydroxide, the mixture was stirred at room temperature for one hour. Methanol was evaporated and the resulting precipitate separated by filtration was washed with distilled water and ethanol to obtain 5.85 g of the title compound (yield 90%) (2 steps).

reactant | 4-amino-1-benzyl-5-imidazole carboxamide hydrochloride | 7.26 g | Cl.NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methyl alcohol | 100 ml | CO | CH4O
solvent | water | 80 ml | O | H2O
product | 4-Amino-1-benzyl-5-imidazole carboxamide | 5.85 g, yield 90% | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
